US04049812
A solution of 11.0 g. of ethyl [2-(2-pyridinecarbonyl)-phenyl]azo-(2-chloroacetamido)acetate and 2.5 g. of 2-methylimidazole in 500 ml. of ethanol is refluxed for one hour, followed by evaporation of the solvent. The residue is made alkaline with saturated aqueous sodium hydrogen carbonate solution, and extracted with chloroform. The chloroform layer is washed with water and dried over sodium sulfate, followed by evaporation of the solvent to give ethyl 1-[2-(2-pyridinecarbonyl)phenyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate as crystals. Recrystallization from acetone-n-hexane gives colorless prisms, melting at 129° to 130° C.

reactant | ethyl [2-(2-pyridinecarbonyl)-phenyl]azo-(2-chloroacetamido)acetate | N1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)N=NC(C(=O)OCC)NC(CCl)=O | C18H17ClN4O4
reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
solvent | ethanol | C(C)O | C2H6O
product | ethyl 1-[2-(2-pyridinecarbonyl)phenyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate | N1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)N1N=C(N=C1CCl)C(=O)OCC | C18H15ClN4O3
